US05081121
The 4-benzyloxy-5-methoxy-1-methoxycarbonyl-3-methylindole (5.3 g) was dissolved in methanol (60 ml). A solution of potassium hydroxide (40.0 g) in water (60 ml) was added to the solution, and the mixture was heated under reflux for 2 hours. The reaction mixture was poured into water, and chloroform extraction was conducted. The extract was washed with saturated saline and dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (Wako Gel C-200, 100 g). Elution with chloroform gave 4-benzyloxy-5-methoxy-3-methylindole (4.3 g).

reactant | 4-benzyloxy-5-methoxy-1-methoxycarbonyl-3-methylindole | 5.3 g | C(C1=CC=CC=C1)OC1=C2C(=CN(C2=CC=C1OC)C(=O)OC)C | C19H19NO4
reactant | potassium hydroxide | 40.0 g | [OH-].[K+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 4-benzyloxy-5-methoxy-3-methylindole | 4.3 g | C(C1=CC=CC=C1)OC1=C2C(=CNC2=CC=C1OC)C | C17H17NO2
